US07354933B2
Preparation of (S)-5-methyl-1-pyrid-4-ylmethyl-3-(4-trifluoromethanesulfonylphenyl)imidazolidine-2,4-dione trifluoroacetate
The compound is prepared from 0.025 mmol of resin, 0.075 mmol of N-Fmoc-L-Ala(OH), 0.125 mmol of 4-pyridinecarboxaldehyde and 0.0625 mmol of 4-(trifluoromethanesulfonyl)aniline, in the same way as in Example 1. After purification by preparative LC-MS, 5.6 mg of expected product are obtained.

reactant | N-Fmoc-L-Ala(OH) | 0.075 mmol | N([C@@H](CO)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C18H17NO5
reactant | 4-pyridinecarboxaldehyde | 0.125 mmol | N1=CC=C(C=C1)C=O | C6H5NO
reactant | 4-(trifluoromethanesulfonyl)aniline | 0.0625 mmol | FC(S(=O)(=O)C1=CC=C(N)C=C1)(F)F | C7H6F3NO2S
product | (S)-5-methyl-1-pyrid-4-ylmethyl-3-(4-trifluoromethanesulfonylphenyl)imidazolidine-2,4-dione trifluoroacetate | FC(C(=O)O)(F)F.C[C@H]1C(N(C(N1CC1=CC=NC=C1)=O)C1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)=O | InChI=1S/C17H14F3N3O4S.C2HF3O2/c1-11-15(24)23(16(25)22(11)10-12-6-8-21-9-7-12)13-2-4-14(5-3-13)28(26,27)17(18,19)20;3-2(4,5)1(6)7/h2-9,11H,10H2,1H3;(H,6,7)/t11-;/m0./s1
